US04835153
Diisopropyl(2,5-dimethyl-2,5-diaza-7,9-dithiabicyclo-[4,3,0]-nonane-8-ylidene)malonate.
In 10 ml of water was dissolved 3.2 g of 40% aqueous glyoxal and 1.9 g of N,N'-dimethylethylenediamine at 0° C. To this solution was added 4.4 g of sodium bisulfite dissolved in 20 ml of water and the mixture was stirred for 30 minutes. To this was added dropwise at 0° C. the dithiolate solution which had been prepared previously by the reaction of 3.7 g of diisopropyl malonate with 1.8 g of carbon disulfide in the presence of 8 g of 30% aqueous potassium hydroxide. After the reaction mixture was stirred for additional 3 hours, 50 ml of water was added to the reaction solution. The solid deposited was collected by filtration and recrystalized from ethyl acetate-n-hexane to give 5.5 g of the desired product.

reactant | glyoxal | 3.2 g | C(=O)C=O | C2H2O2
reactant | N,N'-dimethylethylenediamine | 1.9 g | CNCCNC | C4H12N2
reactant | sodium bisulfite | 4.4 g | S([O-])(O)=O.[Na+]
reactant | dithiolate | S1SC(C=C1)C(=O)[O-]
reactant | diisopropyl malonate | 3.7 g | C(CC(=O)OC(C)C)(=O)OC(C)C | C9H16O4
reactant | potassium hydroxide | 8 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
solvent | water | 20 ml | O | H2O
solvent | water | 50 ml | O | H2O
solvent | carbon disulfide | 1.8 g | C(=S)=S | CS2
product | Diisopropyl(2,5-dimethyl-2,5-diaza-7,9-dithiabicyclo-[4,3,0]-nonane-8-ylidene)malonate | 5.5 g, Yield 74% | C(C)(C)OC(C(C(=O)OC(C)C)=C1SC2N(CCN(C2S1)C)C)=O | C16H26N2O4S2
